US07560569B2
In a similar manner to Example 63, (2S,4S)-1-[[N-[4-carboxybicyclo[2.2.2]oct-1-yl]amino]acetyl]-4-fluoropyrrolidine-2-carbonitrile (50.0 mg) and (1R)-1-cyclohexylethylamine (49.7 μL) were used to obtain (2S,4S)-1-[[N-(4-[-N-[(1R)-1-cyclohexylethyl]amino]carbonylbicyclo[2.2.2]oct-1-yl)amino]acetyl]-4-fluoropyrrolidine-2-carbonitrile (29.9 mg).

reactant | (2S,4S)-1-[[N-[4-carboxybicyclo[2.2.2]oct-1-yl]amino]acetyl]-4-fluoropyrrolidine-2-carbonitrile | 50.0 mg | C(=O)(O)C12CCC(CC1)(CC2)NCC(=O)N2[C@@H](C[C@@H](C2)F)C#N | C16H22FN3O3
reactant | (1R)-1-cyclohexylethylamine | 49.7 μL | C1(CCCCC1)[C@@H](C)N | C8H17N
product | (2S,4S)-1-[[N-(4-[-N-[(1R)-1-cyclohexylethyl]amino]carbonylbicyclo[2.2.2]oct-1-yl)amino]acetyl]-4-fluoropyrrolidine-2-carbonitrile | 29.9 mg | C1(CCCCC1)[C@@H](C)NC(=O)C12CCC(CC1)(CC2)NCC(=O)N2[C@@H](C[C@@H](C2)F)C#N | C24H37FN4O2
